US06653340B1
A portion of the above mixture (30 g). was combined with 1,4-diazobicyclo[2.2.2]octane (Aldrich, 3.1 g, 27.7 mmol) and acrylonitrile (20 mL, 304 mmol) and heated at 80° C. for 4 h. The reaction mixture was concentrated in vacuo leaving an oily residue which was dissolved in a tetrahydrofuran/ether mixture (1:1), washed with 10% NaHCO3 (3×100 mL), dried (Na2SO4), and concentrated in vacuo to provide a crude mixture (36.1 g). The separated NaHCO3 layer was extracted with EtOAc (3×50 mL). The combined EtOAc layers were dried (Na2SO4) and concentrated in vacuo to yield 3-cyano-7-hydroxy-2H-1-benzopyran (3.2 g) which was ˜98% pure by 1H NMR.

reactant | 1,4-diazobicyclo[2.2.2]octane | 27.7 mmol, 3.1 g | C1CN2CCN1CC2 | C6H12N2
reactant | acrylonitrile | 304 mmol, 20 mL | C(C=C)#N | C3H3N
reactant | tetrahydrofuran ether | O1CCCC1.CCOCC
product | 3-cyano-7-hydroxy-2H-1-benzopyran | 3.2 g | C(#N)C=1COC2=C(C1)C=CC(=C2)O | C10H7NO2
